US07335658B2
6-[4-(2-METHANESULFONYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 2-methanesulfonylbenzoic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white solid (97% yield). 1H NMR (400 MHz, CDCl3) δ 8.11, 8.03, 7.85, 7.74-7.62, 7.38, 4.32-3.33, 3.27, 1.73-1.62, 1.52-1.46, 0.94. MS (ES+) m/z 484.3 (M+1).

reactant | 2-methanesulfonylbenzoic acid | CS(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C8H8O4S
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(2-METHANESULFONYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)S(=O)(=O)C)=O)C | C22H29N5O4S
